US07459472B2
A mixture of 5-bromo-2-hydroxy-benzoic acid (2.21 g, 10 mmol), butyl bromide (3.46 g, 25 mmol), potassium carbonate (2.76 g, 20 mmol) and DMF (20 mL) was heated at 100° C. for 1 h. The reaction mixture was partitioned between ether (120 mL) and brine (100 mL). Ether layer was separated and washed again with brine (100 mL), dried over MgSO4. Purification by flash chromatography (ethyl acetate/hexanes 1:99, 1:19, 1:9) gave 5-Bromo-2-butoxy-benzoic acid butyl ester as yellow oil (1.648 g, 5.01 mmol).

reactant | 5-bromo-2-hydroxy-benzoic acid | 10 mmol, 2.21 g | BrC=1C=CC(=C(C(=O)O)C1)O | C7H5BrO3
reactant | butyl bromide | 25 mmol, 3.46 g | C(CCC)Br | C4H9Br
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-2-butoxy-benzoic acid butyl ester | 5.01 mmol, 1.648 g | C(CCC)OC(C1=C(C=CC(=C1)Br)OCCCC)=O | C15H21BrO3
